US07700628B2
Methyl 4-benzyloxy-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoate was prepared from methyl 4-benzyloxy-2-hydroxybenzoate and 1-Boc-4-hydroxypiperidine using a procedure similar to that described in Example 21-C. The crude material, in dichloromethane, was filtered and purified by chromatography over silica gel using a preparative high pressure chromatography apparatus, eluting with a gradient of 9:1 to 4:1 to 3:1 hexane:ethyl acetate to give 12.8 g of a white solid.

reactant | methyl 4-benzyloxy-2-hydroxybenzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)O | C15H14O4
reactant | 1-Boc-4-hydroxypiperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
product | Methyl 4-benzyloxy-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C25H31NO6
